US07592358B2
51.1d. (5-{4-[5-(4-chlorophenyl)pyridin-2-yl]but-3-ynyl}pyridin-2-yl)isopropylamine
The product was prepared analogously to Example 50.5d from 100 mg (0.53 mmol) of (5-but-3-ynylpyridin-2-yl)isopropylamine and 168 mg (0.53 mmol) of 5-(4-chlorophenyl)-2-iodopyridine (purification by preparative HPLC-MS). Yield: 520 mg (54% of theoretical); C23H22ClN3 (M=375.894); calc.: molpeak (M+H)+:376/378; found: molpeak (M+H)+:376/378; HPLC-MS: 5.33 minutes (method G).

reactant | (5-but-3-ynylpyridin-2-yl)isopropylamine | 0.53 mmol, 100 mg | C(CC#C)C=1C=CC(=NC1)NC(C)C | C12H16N2
reactant | 5-(4-chlorophenyl)-2-iodopyridine | 0.53 mmol, 168 mg | ClC1=CC=C(C=C1)C=1C=CC(=NC1)I | C11H7ClIN
product | (5-{4-[5-(4-chlorophenyl)pyridin-2-yl]but-3-ynyl}pyridin-2-yl)isopropylamine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CCCC=1C=CC(=NC1)NC(C)C | C23H22ClN3
